US06500844B1
Step C: (+−)-trans-1-Hydroxymethyl-4-methylene-2-(3-thienyl)cyclopentane
To a solution of methyl(+−)-trans-4-methylene-2-(3-thienyl)cyclopentanoate (6.0 g, 27 mmol) prepared as in Step B in THF (70 mL) under nitrogen and cooled to −10° C. was added dropwise over 15 min 1M lithium aluminum hydride (LAH) in THF (54 mL). After 1 h, the bath was removed and the reaction was stirred at rt for 3 h. The reaction was cooled in an ice/methanol bath and the excess LAH was quenched by dropwise addition of water/1N potassium hydroxide/water and the salts were removed by filtration through celite. The filtrate was then poured into dilute aq. HCl. The mixture was extracted twice with ether and the organic layers were washed with brine, dried over sodium sulfate, combined and concentrated to afford the crude title product (4.09 g).

reactant | methyl(+−)-trans-4-methylene-2-(3-thienyl)cyclopentanoate | 27 mmol, 6.0 g | C=C1C[C@H]([C@@H](C1)C(=O)OC)C1=CSC=C1 | C12H14O2S
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 54 mL | C1CCOC1 | C4H8O
product | (+−)-trans-1-Hydroxymethyl-4-methylene-2-(3-thienyl)cyclopentane | 4.09 g | OC[C@H]1[C@@H](CC(C1)=C)C1=CSC=C1 | C11H14OS
